*****************************************************************
* NXP BUK954R8-60E
*
* Polarity N-Channel
* Ratings 60V/4.900000E-003OHMS/100A
*
* Date Created Thu Jul 12 23:55:40 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK954R8-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.20225887222398e-09
RLS2 SOURCE 8 5.53488023542544
RLS1 8 7 0.000217481695870964

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00277107699687379 TC=0.00560013798052437,1.7366369450622E-05
RBD 9 4 0.000960923756984188 TC=0.00560013798052437,1.7366369450622E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 6.13141528301715e-09
RG 1 2 0.693833761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	7248.07
+ -5	7197.09
+ -4	7165.71
+ -3	7083.18
+ -2	6655.33
+ -1	4300.55
+ -0.5	2931.24
+ -0.2	1935.51
+ -0.1	1909.2
+ 0	1336.34
+ 0.1	1004.77948
+ 0.2	1003.72192
+ 0.5	856.36272
+ 1	711.28424
+ 2	528.33888
+ 3	457.04396
+ 4	425.0034
+ 5	406.47748
+ 6	394.18692
+ 8	377.89284
+ 10	366.47896
+ 12	357.21468
+ 15	345.21004
+ 16	341.3356
+ 20	327.68616
+ 25	312.98676
+ 30	301.31352
+ 50	274.97088



.MODEL MINT NMOS(Vto=2.08098365930944 Kp=6.365609e+002 Nfs=210000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=6.06328078242833e-12
+ N=1 M=0.6 VJ=0.58 Fc=0.5 Cjo=2.7990688e-09 Tt=3.873604e-08)

.ENDS
